US09303040B2
To a solution of the 5,7-dihydrothieno[3,4-d]pyrimidin-4-ol (0.50 g, 3.2 mmol) in DCE (50 mL) was added DIEA (0.42 g, 3.2 mmol) and POCl3 (1.5 g, 9.8 mmol). The mix was refluxed overnight. After cooling, the solvent was removed and the residue was subject to silica gel chromatography, eluting with hexane/ethyl acetate (4:1) to give 4-chloro-5,7-dihydrothieno[3,4-d]pyrimidine (0.45 g, 80%). 1H NMR (CDCl3, 400 MHz) δ 8.84 (s, 1H), 4.37 (s, 2H), 4.27 (s, 2H).

reactant | 5,7-dihydrothieno[3,4-d]pyrimidin-4-ol | 3.2 mmol, 0.50 g | N1=CN=C(C2=C1CSC2)O | C6H6N2OS
reactant | DIEA | 3.2 mmol, 0.42 g | CCN(C(C)C)C(C)C | C8H19N
reactant | POCl3 | 9.8 mmol, 1.5 g | O=P(Cl)(Cl)Cl | Cl3OP
solvent | DCE | 50 mL | ClCCCl | C2H4Cl2
product | 4-chloro-5,7-dihydrothieno[3,4-d]pyrimidine | 0.45 g, 80% | ClC=1C2=C(N=CN1)CSC2 | C6H5ClN2S
